US07115611B2
B] 2-{4-[6-(3-Fluoro-4-trifluoromethyl-phenyl)-2-methyl-pyridin-3-ylmethoxy]-2-methyl-phenoxy}-2-methyl-propionic acid
0.214 g (0.423 mmol) of the above prepared 2-{4-[6-(3-fluoro-4-trifluoromethyl-phenyl)-2-methyl-pyridin-3-ylmethoxy]-2-methyl-phenoxy}-2-methyl-propionic acid ethyl ester was dissolved in 0.85 ml of THF/EtOH=1/1, treated with 1.27 ml (3 eq.) of 1N NaOH and kept at ambient temperature for 2 h. The reaction mixture was then poured onto crashed ice/AcOEt/HCl dil., the aqueous phase extracted again with AcOEt; the combined organic layers were washed with water and brine, dried over magnesium sulfate, and evaporated to dryness. Recrystallisation from AcOEt/hexane yielded finally 0.191 g of the title compound as white crystals of mp. 175–76°C.

reactant | 2-{4-[6-(3-fluoro-4-trifluoromethyl-phenyl)-2-methyl-pyridin-3-ylmethoxy]-2-methyl-phenoxy}-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)OCC=1C(=NC(=CC1)C1=CC(=C(C=C1)C(F)(F)F)F)C)C)=O | C27H27F4NO4
reactant | NaOH | 1N, 1.27 ml, 3 eq. | [OH-].[Na+]
solvent | THF EtOH | 0.85 ml | C1CCOC1.CCO
product | 2-{4-[6-(3-Fluoro-4-trifluoromethyl-phenyl)-2-methyl-pyridin-3-ylmethoxy]-2-methyl-phenoxy}-2-methyl-propionic acid | 0.191 g | FC=1C=C(C=CC1C(F)(F)F)C1=CC=C(C(=N1)C)COC1=CC(=C(OC(C(=O)O)(C)C)C=C1)C | C25H23F4NO4
